US05420282
A mixture of allyl bromide (1.81 g, 15 mmol) potassium carbonate (4.14 g, 30 mmol) and ethyl 3-(1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindol-2-yl)-2,2dimethylpropionate (7.15 g, 15 mmol), prepared as in step 3, in anhydrous DMF (40 ml) was heated at 60° C for 3 hours, and stirred at ambient temperature for 17 hours. The reaction mixture was diluted with brine and extracted with ethyl acetate. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to provide a white solid. The solid was triturated with hexane (100 ml), filtered and dried in vacuo dried to obtain 6.65g of ethyl 3-(1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-allyloxyindol-2-yl)-2,2dimethylpropionate as a white solid.

reactant | allyl bromide | 15 mmol, 1.81 g | C(C=C)Br | C3H5Br
reactant | ethyl 3-(1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindol-2-yl)-2,2dimethylpropionate | 15 mmol, 7.15 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C26H32ClNO3S
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | ethyl 3-(1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-allyloxyindol-2-yl)-2,2dimethylpropionate | 6.65g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC=C)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C29H36ClNO3S
